US09334263B2
Step 5: Synthesis of benzylzinc(II) bromide
To a suspension mixture of zinc powder (active, 65 g, 1.0 mol) in dry THF (200 mL) was dropwise added 1,2-dibromoethane (3.5 mL, 40 mmol) at 65° C. under nitrogen atmosphere, followed by the addition of chlorotrimethylsilane (87 mg, 80 mmol). The mixture was then stirred at 60° C. for another 1 h. Subsequently, (bromomethyl)benzene (60 mL, 500 mmol) was dropwise added, and the suspension was stirred at 60° C. for another 1 h. The reaction mixture was directly used in the next step.

reactant | zinc | 1.0 mol, 65 g | [Zn] | Zn
reactant | 1,2-dibromoethane | 40 mmol, 3.5 mL | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 80 mmol, 87 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | (bromomethyl)benzene | 500 mmol, 60 mL | BrCC1=CC=CC=C1 | C7H7Br
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | benzylzinc(II) bromide | [Br-].C(C1=CC=CC=C1)[Zn+] | InChI=1S/C7H7.BrH.Zn/c1-7-5-3-2-4-6-7;;/h2-6H,1H2;1H;/q;;+1/p-1
